US05476933
Preparation of 2-Methoxy-7,8-dichloro-5,6,7,8-tetrahydronaphthalene-1,4-dione (72).
To a solution of 2-methoxy-5,8-dihydronaphthalene-1,4-dione (2.75 g, 14.4 mmol) in CHCl3 (60 mL, pre-treated with silica gel to remove the EtOH stabilizer) there was added a solution of Cl2 (~1.10 g, ~15.1 mmol) in EtOH-free CHCl3 (50 mL) in portions over 30 min. TLC (5% EtOAc/95% EtOH) indicated total consumption of the starting material and the appearance of a major higher Rf product spot (lower Rf impurity spots were also noted). The solvent was removed in vacuo to yield a yellow syrup. The addition of 95% EtOH (10 mL) followed by evaporation in vacuo (performed twice) yielded a yellow solid. Crystallization from 95% EtOH (dissolved in 20 mL, allowed to cool to rt) yielded a yellow solid (2.28 g, 60%, ~90% pure by TLC and 1H NMR, mp 119°-123° C.). Recrystallization from 95% EtOH (dissolved in 12 mL, allowed to cool to rt) yielded a yellow crystalline solid (1.89 g, 83% recovery, 50% total yield, ~95% pure by TLC and aH NMR with the major impurity being 2-methoxynaphthalene-1,4-dione); mp 123°-128° C. (EtOH); 1H NMR (CDCl3) δ3.11 (m, 4H), 3.83 (s, 3H), 4.67 (m, 2H), 5.94 (s, 1H).

reactant | 2-methoxy-5,8-dihydronaphthalene-1,4-dione | 14.4 mmol, 2.75 g | COC=1C(C=2CC=CCC2C(C1)=O)=O | C11H10O3
reactant | Cl2 | ~15.1 mmol, ~1.10 g | ClCl | Cl2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | 2-methoxynaphthalene-1,4-dione | COC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-Methoxy-7,8-dichloro-5,6,7,8-tetrahydronaphthalene-1,4-dione | COC=1C(C=2C(C(CCC2C(C1)=O)Cl)Cl)=O | C11H10Cl2O3
